US04192871
11β-Diethylaminoacetoxy-3α-hydroxy-5α-pregn-1-en-20-one
2β-Bromo-11β-diethylaminoacetoxy-3α-hydroxy-5α-pregnan-20-one (1 g) was stirred and warmed with dihydropyran (2 ml) in benzene (40 ml) containing p-toluene sulphonic acid monohydrate (406 mg) until a clear solution was achieved. After 20 mins, the mixture was washed with excess sodium bicarbonate solution and brine (2x) and dried with magnesium sulphate. Evaporation of the benzene left a gum which was dissolved in N,N-dimethylformamide (25 ml) and stirred at 120° with calcium carbonate (2.5 g) and lithium bromide (3.3 g) for 5.5 hours. When reaction was complete, the mixture was diluted with methanol and filtered. The methanolic filtrate was made acidic by addition of 2N hydrochloric acid (4 ml). After 4 hours at 20°, excess sodium bicarbonate solution was added and the mixture evaporated to a small volume, extracted with ethyl acetate (twice) and the combined organic solutions were washed with brine (twice) and dried with magnesium sulphate. Evaporation of the solvent left a gum which was filtered through silica gel (30 g) in ethyl acetate and the eluate concentrated. Further purification was achieved by preparative TLC and recrystallisation from aqueous methanol to give title compound m.p. 134°-138°, [α]D +51.6° (270 mg).

reactant | 2β-Bromo-11β-diethylaminoacetoxy-3α-hydroxy-5α-pregnan-20-one | 1 g | Br[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(C1)C)OC(CN(CC)CC)=O)C)O | C27H44BrNO4
reactant | dihydropyran | 2 ml | O1CCCC=C1 | C5H8O
reactant | p-toluene sulphonic acid monohydrate | 406 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | 11β-Diethylaminoacetoxy-3α-hydroxy-5α-pregn-1-en-20-one | C(C)N(CC)CC(=O)O[C@@H]1[C@@H]2[C@]3(C=C[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)O)C | C27H43NO4
